datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([C:7]([O:8][O:9])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[O:1])[H:3].[H:2][O:9][O:8][C:7]([C:6]([C:5]([C:4]([H:10])([H:11])[H:12])([H:13])[H:14])([H:15])[H:16])([H:17])[H:18],56.9024
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:5],67.99
[C:0](=[C:1]([C:2]([c:3]1[c:4][c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:9])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:12])[H:13])[H:11])[H:10],36.199968
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],35.4385
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[O:16][O:17][H:24])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[H:12][C:14]([C:13]([H:18])([H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[O:16][O:17][H:24],-22.0497
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:10])([H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],-12.1336
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([S:13][H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[C:11](=[C:12]([S:13])[H:16])([H:14])[H:15],31.7984
[C:0]([C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])[H:10])([H:8])[H:9])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])[C:3]1([C:4](=[C:5]([H:13])[H:14])[H:12])[H:11],139.746
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[O:13]>>[H:7][O:13].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],29.9321
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16],56.0656
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8]>>[C:0](=[N:1][C:2]([H:6])[H:7])([H:3])[H:4].[H:5][O:8],27.6144
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12](=[S:13])[H:18])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:14])([H:15])[H:16])([C:12](=[S:13])[H:18])[H:17],115.06
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:22])([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:21])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:22])[c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])([H:18])([H:19])[H:20],23.4304
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[N:6]([H:7])[H:8]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[N:6]([H:7])[H:8],6.937072
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:14])([H:15])[H:16])([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17],10.0416
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[S:21]([C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])[H:30])[H:29]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([S:21][H:29])([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])[H:30],30.9616
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:5],67.2369
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]=[S:8])([H:9])([H:10])[H:11]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:9])([H:10])[H:11])=[S:8],-1.6736
